US08912188B2
To a solution of methyl 3-[(1-ethylpiperidin-4-yl)(methyl)amino]-2-(4-fluorophenyl)quinoxaline-6-carboxylate (53 mg, 0.12 mmol) in methanol (30 mL) was added sodium hydroxide (26.5 mg, 0.66 mmol), and the resulting mixture was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (10 mL), and adjusted to pH 5 with HCl (3N) to give the precipitate, which was collected by filtration to afford 3-[(1-ethylpiperidin-4-yl)(methyl)amino]-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a light yellow solid (35.2 mg, 69%).

reactant | methyl 3-[(1-ethylpiperidin-4-yl)(methyl)amino]-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.12 mmol, 53 mg | C(C)N1CCC(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C24H27FN4O2
reactant | sodium hydroxide | 0.66 mmol, 26.5 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 3-[(1-ethylpiperidin-4-yl)(methyl)amino]-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 35.2 mg, 69% | C(C)N1CCC(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F)C | C23H25FN4O2
